US05049551
Preparation of N-(2-n-propyl-n-pentanoyl)glycine (2a)
In 63 ml of water was dissolved 6.93 g of glycine, and under ice-cooling, 15 g of 2-n-propyl-n-pentanoyl chloride and 13 ml of a 36% sodium hydroxide solution were alternately added dropwise. After completion of the dropwise addition, the mixture was stirred at room temperature for 3 hours to conduct the reaction, adjusted a pH thereof to about 2 with a 1 N hydrochloric acid, and precipitated crystals were collected by filtration. The crystals were dissolved in ethyl acetate, washed with a saturated saline solution and then dried over anhydrous magnesium sulfate. Crystals obtained by condensing the solvent under reduced pressure were recrystallized from hexane-ethyl acetate to give 10.9 g (Yield: 59%) of the title compound as colorless needle crystals.

reactant | glycine | 6.93 g | NCC(=O)O | C2H5NO2
reactant | 2-n-propyl-n-pentanoyl chloride | 15 g | C(CC)C(C(=O)Cl)CCC | C8H15ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 63 ml | O | H2O
product | N-(2-n-propyl-n-pentanoyl)glycine | 10.9 g, Yield: 59% | C(CC)C(C(=O)NCC(=O)O)CCC | C10H19NO3
